*
* SPLIFFTOWN 4000 XL
*

Eg    1 0   2.83
Rbsc  1 2   4.9
Lbsc  1 2   1.4e-3 0.36
L1    2 3   0.8e-3 0.22
C1    3 0   22e-6
R1    3 4   6
C3    4 0   22e-6
LeW   3 5   0.96e-3 5.7
TlW   5 6   10.1

TrW   6 0   1
RrmsW 6 0   1.25
CmmsW 6 0   50.5e-3
LcmsW 6 0   0.95e-3
GlW   6 0   0.035

GrW   7 0   0.035
Box   7 8   0.037
ZrW1  8 9  0.035 ai
ZrW2  9 0 0.035 ai

RbT   1 11  3.25
C4    11 12 5.6e-6
L2    12 0  0.36e-3 0.14
R3    12 0  18
ReT   12 13 4.7
LeT   13 14 0.006e-3
TlT   14 0  3.5

TrT   15 0  1
RrmsT 15 0  2.4390
CmmsT 15 0  0.45e-3
LcmsT 15 0  0.23e-3
GlT   15 0  0.0008

GrT   16 0  0.0008
ZrT1  16 17 0.0008 ai
ZrT2  17 0 0.0008 ai
